US07220862B2
(R)-2-Benzyloxycarbonylamino-3-[2-methyl-1-(2-trimethylsilanyl-ethanesulfonyl)-1H-benzoimidazol-5-yl]-propionic acid methyl ester
To a suspension of (R)-2-benzyloxycarbonylamino-3-(2-methyl-1H-benzoimidazol-5-yl)-propionic acid methyl ester (533 mg, 1.96 mmol), and sodium carbonate in acetonitrile (20 mL) was added neat 2-trimethylsilanyl-ethanesulfonyl chloride all at once. The mixture was stirred at room temperature overnight. Solvents were removed and the residue was purified by chromatography on silica gel using ethyl acetate/hexanes (1:2) as eluent to afford the title compound as a waxy solid (1:1 mixture of N1 and N3 isomers, 66%). 1H-NMR (CDCl3, 500 MHz) δ 7.68 (d, J=8.5 hz, 0.5H), 7.55 (d, J=8.5 Hz, 0.5H), 7.53 (s, 0.5H), 7.41 (s, 0.5H), 7.34–7.29 (m, 5H), 7.06–7.04 (m, 1H), 5.22 (d, J=8.0 Hz, 0.5H), 5.17 (d, J=7.5 Hz, 0.5H), 5.11–5.07 (m, 2H), 4.72–4.69 (m, 1H), 3.75 (s, 1.5H), 3.72 (s, 1.5H), 3.24–3.17 (m, 2H), 2.79 (s, 3H), 0.92–0.83 (m, 2H), −0.02 (s, 4.5H), −0.05 (s, 4.5H). Mass spec.: 532.26 (MH)+.

reactant | (R)-2-benzyloxycarbonylamino-3-(2-methyl-1H-benzoimidazol-5-yl)-propionic acid methyl ester | 1.96 mmol, 533 mg | COC([C@@H](CC1=CC2=C(NC(=N2)C)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C20H21N3O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-trimethylsilanyl-ethanesulfonyl chloride | C[Si](CCS(=O)(=O)Cl)(C)C | C5H13ClO2SSi
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (R)-2-Benzyloxycarbonylamino-3-[2-methyl-1-(2-trimethylsilanyl-ethanesulfonyl)-1H-benzoimidazol-5-yl]-propionic acid methyl ester | COC([C@@H](CC1=CC2=C(N(C(=N2)C)S(=O)(=O)CC[Si](C)(C)C)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C25H33N3O6SSi
